US06087380
a) 4-Chloro-3-nitrobenzenesulphonic acid-N-(1-methyl-piperidin-4-yl)-N-methyl-amide
To a solution of 2.2 ml (15 mMol) of 1-methyl-4-methylamino-piperidine in 60 ml pyridine, 3.8 g (15 mMol) of 4-chloro-3-nitro-benzenesulphonic acid chloride were added, in batches, whilst cooling with ice. The mixture was then stirred for two hours with cooling, then evaporated to dryness, the residue was mixed with about 50 ml of water and made alkaline with concentrated ammonia whilst stirring vigorously. The crude product precipitated was suction filtered and purified by column chromatography (250 g silica gel, eluant: dichloromethane with 1.5% ethanol). Yield: 1.6 g (31% of theory), C13H18ClN3O4S (347.8) Rf value: 0.19 (silica gel; dichloromethane/ethanol=19:1)

reactant | 1-methyl-4-methylamino-piperidine | 15 mMol, 2.2 ml | CN1CCC(CC1)NC | C7H16N2
reactant | 4-chloro-3-nitro-benzenesulphonic acid chloride | 15 mMol, 3.8 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-3-nitrobenzenesulphonic acid-N-(1-methyl-piperidin-4-yl)-N-methyl-amide | CN1CCC(CC1)N(S(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])C | C13H18ClN3O4S
